US05342850
5-(4-(3,4-Dichlorobenzylamino)phenyl)thiazolidine-2,4-dione
Into 40 ml of ethanol were suspended 0.40 g of 5-(4-(3,4-dichlorobenzylideneamino) phenyl)thiazolidine-2,4-dione, and, after added 0.24 g of sodium borohydride, the suspension was stirred for 2 hours at 50° C. The reaction mixture was poured into 200 ml of water, which was extracted with ethyl acetate. The organic layer was washed with water and dried. Then, solvent was distilled off. The residue was recrystallized from iso-propanol to obtain 0.20 g of title compound.

reactant | ethanol | 40 ml | C(C)O | C2H6O
reactant | 5-(4-(3,4-dichlorobenzylideneamino) phenyl)thiazolidine-2,4-dione | 0.40 g | ClC=1C=C(C=NC2=CC=C(C=C2)C2C(NC(S2)=O)=O)C=CC1Cl | C16H10Cl2N2O2S
reactant | sodium borohydride | 0.24 g | [BH4-].[Na+]
solvent | water | 200 ml | O | H2O
product | 5-(4-(3,4-Dichlorobenzylamino)phenyl)thiazolidine-2,4-dione | 0.20 g | ClC=1C=C(CNC2=CC=C(C=C2)C2C(NC(S2)=O)=O)C=CC1Cl | C16H12Cl2N2O2S
